US04495195
A solution was prepared by dissolving 5.2 g. of methyl 1-methyl-3-(3-trifluoromethylphenyl)pyrazole-5-carboxylate in 200 ml. of glacial acetic acid. The solution was heated to refluxing temperature while gaseous chlorine was passed into the mixture. After about four hours, the addition of chlorine was stopped and the reaction mixture poured over ice. The consequent aqueous mixture was extracted with two 150 ml. portions of chloroform and the chloroform extracts separated, combined and dried. Removal of the chloroform in vacuo yielded as a residue methyl 1-methyl-3-(3-trifluoromethylphenyl)-4-chloropyrazole-5-carboxylate formed in the above reaction. The residue was dissolved in ethyl acetate and the ethyl acetate solution washed with saturated aqueous sodium bicarbonate. The ethyl acetate solution was then dried with phase separation paper. Removal of the solvent in vacuo left a residue which was dissolved in hexane and chromatographed over grade 62 silica. The chromatogram was developed with chloroform/hexane mixtures as the eluant. Use of 100% chloroform as the eluant yielded a small amount of a rapidly moving material which was not the desired product. The desired product, methyl 1-methyl-3-(3-trifluoromethylphenyl)-4-chloropyrazole carboxylate, was next eluted. Fractions containing this material were combined and the chloroform removed in vacuo. Recrystallization of the residue (weight 1.5 g.) from hexane yielded methyl 1-methyl-3-(3-trifluoromethylphenyl)-4-chloropyrazole-5-carboxylate; melting point=97° -8° C. The compound has the following elemental analysis.

reactant | methyl 1-methyl-3-(3-trifluoromethylphenyl)pyrazole-5-carboxylate | CN1N=C(C=C1C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C13H11F3N2O2
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 1-methyl-3-(3-trifluoromethylphenyl)-4-chloropyrazole-5-carboxylate | CN1N=C(C(=C1C(=O)OC)Cl)C1=CC(=CC=C1)C(F)(F)F | C13H10ClF3N2O2
